US05420275
8-Amino-7-phenyl-5-(1,2,4-triazol-1-yl)pyrido[3,4-d]pyridazine-1,4(2H,3H)dione (L-040)
In 15 ml of ethanol was dissolved 0.215 g of 3-amino-4,5-diethoxycarbonyl-2-phenyl-6-(1,2,4-triazol-1-yl)pyridine, whereto 1 ml of hydrazine monohydrate was added. The mixture was heated under reflux for 7 hours. After cooling, the resulting yellow crystals were collected by filtration and washed with ethanol. The crystals were suspended in 20 ml of water and the suspension was acidified by addition of 1 ml of acetic acid. Thereafter, the crystals were collected by filtration, washed with water and dried to give 0.11 g of the title compound.

reactant | 3-amino-4,5-diethoxycarbonyl-2-phenyl-6-(1,2,4-triazol-1-yl)pyridine | 0.215 g | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)N1N=CN=C1)C1=CC=CC=C1 | C19H19N5O4
reactant | hydrazine monohydrate | O.NN
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 8-Amino-7-phenyl-5-(1,2,4-triazol-1-yl)pyrido[3,4-d]pyridazine-1,4(2H,3H)dione | 0.11 g | NC1=C(N=C(C=2C(NNC(C21)=O)=O)N2N=CN=C2)C2=CC=CC=C2 | C15H11N7O2
